US05003080
To a nitrogen purged flask equipped with a mechanical stirrer is added 130 kg (311 mol) of (±)4-fluoro-α-[2-methyl-1-oxopropyl]-γ-oxo-N,β-diphenylbenzenebutaneamide mixture of [R-(R*,R*)], [R-(R*,S*)], [S-(R*,R*)]and [S-(R*,S*)]isomers, 5%0 L of heptanes and 60 L of toluene, 59 kg (400 mol) of 3-amino-1,1-diethoxypropane, and 22.3 kg (218 mol) of pivalic acid. The mixture is stirred and heated 1o reflux, removing water with a Dean Stark trap. The mixture is refluxed 32 hours and slowly cooled to 60°-65° C., diluted with 500 L of 2-propanol-water (3:2), seeded, and cooled to 20°-25° C. The product is isolated by filtration, washed with 300 L of 2-propanol, and dried in vacuo to yield 133.5 kg of 1-(3,3-diethoxypropyl)-5-(4-fluorophenyl)-2-(1-methylethyl)-N,4-diphenyl-lH-pyrrole-3-carboxamide; mp 125.1°-127.7° C. after recrystallization from ethanol

reactant | (±)4-fluoro-α-[2-methyl-1-oxopropyl]-γ-oxo-N,β-diphenylbenzenebutaneamide | 311 mol, 130 kg | FC1=CC=C(C=C1)C(C(C(C(=O)NC1=CC=CC=C1)C(C(C)C)=O)C1=CC=CC=C1)=O | C26H24FNO3
reactant | 3-amino-1,1-diethoxypropane | 400 mol, 59 kg | NCCC(OCC)OCC | C7H17NO2
reactant | pivalic acid | 218 mol, 22.3 kg | C(C(C)(C)C)(=O)O | C5H10O2
solvent | toluene | 60 L | C1(=CC=CC=C1)C | C7H8
product | 1-(3,3-diethoxypropyl)-5-(4-fluorophenyl)-2-(1-methylethyl)-N,4-diphenyl-lH-pyrrole-3-carboxamide | 133.5 kg | C(C)OC(CCN1C(=C(C(=C1C1=CC=C(C=C1)F)C1=CC=CC=C1)C(=O)NC1=CC=CC=C1)C(C)C)OCC | C33H37FN2O3
